US04904675
Hexadecyl 2-(2-imidazolyl)-pyridine-5-carboxylate
5-Carboxy-2-(2-imidazolyl)-pyridine (1.89 g, 0.01 mol) is refluxed in 10 ml of thionyl chloride for 2 h. The solution is evaporated to dryness and the residue dissolved in 20 ml of dichloromethane. The latter solution is added dropwise to a mixture of 1-hexadecanol (2.68 g, 0.011 mol) in 1.6 ml of pyridine. After 17 h at room temperature, the precipitate is filtered off and the filtrate evaporated to dryness. The resulting residue is crystallized in toluene to yield the title compound, m.p. 97°-98°.

reactant | 5-Carboxy-2-(2-imidazolyl)-pyridine | 0.01 mol, 1.89 g | C(=O)(O)C=1C=CC(=NC1)C=1NC=CN1 | C9H7N3O2
reactant | 1-hexadecanol | 0.011 mol, 2.68 g | C(CCCCCCCCCCCCCCC)O | C16H34O
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 1.6 ml | N1=CC=CC=C1 | C5H5N
product | Hexadecyl 2-(2-imidazolyl)-pyridine-5-carboxylate | N1C(=NC=C1)C1=NC=C(C=C1)C(=O)OCCCCCCCCCCCCCCCC | C25H39N3O2
